US05708008
5-(3,4-dichlorobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 10 mg (0.0437 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 9.6 mg (0.0458 mMol) 3,4-dichlorobenzoyl chloride, 14.4 mg (82%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.0437 mMol, 10 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 3,4-dichlorobenzoyl chloride | 0.0458 mMol, 9.6 mg | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
product | 5-(3,4-dichlorobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 14.4 mg, 82% | ClC=1C=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=CC1Cl | C21H21Cl2N3O
